US07091216B2
Step B: 6-(2,4-Dichlorophenyl)-5-(4-chlorophenyl)-2-oxo-1,2-dihydropyridine-3-nitrile
A solution of 3-dimethylamino-1-(2,4-dichlorophenyl)-2-(4-chlorophenyl)prop-2-en-1-one (14.4 mmol assumed) from Step A, cyanoacetamide (1.33 g, 15.8 mmol), and methanol (1.3 mL, 32 mmol) in DMF (35 mL) was added dropwise to a suspension of sodium hydride (60% in mineral oil) (1.45 g, 36 mmol) in DMF (16 mL) at rt. After the slow addition was complete, the reaction was heated to 95° C. for 2.5 h. Most of the DMF was then removed in vacuo before the reaction was diluted with aqueous 18% citric acid solution. The mixture was extracted twice with methylene chloride and the organic layers were washed with a portion of brine. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. The solid residue was triturated with ether, filtered, and air dried to afford the product. HPLC/MS: 375 (M+1), 377 (M+3); Rt=3.47 min; 1H NMR (CDCl3): δ 6.96 (br d, J=8.4 Hz,2H), 7.14 (d, J=8.2 Hz, 1H), 7.25 (br d, J=8.4 Hz, 2H), 7.31 (dd, J=1.9 and 8.2 Hz, 1H), 7.50 (d, J=2.0 Hz, 1H), 7.996 (s, 1H).

reactant | 3-dimethylamino-1-(2,4-dichlorophenyl)-2-(4-chlorophenyl)prop-2-en-1-one | 14.4 mmol | CN(C=C(C(=O)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C17H14Cl3NO
reactant | cyanoacetamide | 15.8 mmol, 1.33 g | C(#N)CC(=O)N | C3H4N2O
reactant | methanol | 32 mmol, 1.3 mL | CO | CH4O
reactant | sodium hydride | 36 mmol, 1.45 g | [H-].[Na+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 6-(2,4-Dichlorophenyl)-5-(4-chlorophenyl)-2-oxo-1,2-dihydropyridine-3-nitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=C(C(N1)=O)C#N)C1=CC=C(C=C1)Cl | C18H9Cl3N2O
